US07517875B2
After dissolving 4-{[4-(2-methoxy-ethylcarbamoyl)-1H-benzimidazol-2-ylamino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester (1.30 g, 3.01 mmol) in methanol (1 ml), a 4N hydrogen chloride-1,4-dioxane solution (7.0 ml, 28.0 mmol) was added and the mixture was stirred at 50° C. for 1 hour. The reaction mixture was concentrated under reduced pressure and vacuum dried to obtain 2-[(piperidin-4-ylmethyl)-amino]-1H-benzimidazole-4-carboxylic acid (2-methoxy-ethyl)-amide. The compound was identified by LC-MS.

reactant | 4-{[4-(2-methoxy-ethylcarbamoyl)-1H-benzimidazol-2-ylamino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester | 3.01 mmol, 1.30 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=NC2=C(N1)C=CC=C2C(NCCOC)=O | C22H33N5O4
reactant | hydrogen chloride-1,4-dioxane | 28.0 mmol, 4N, 7.0 ml | O1CCOCC1.Cl
solvent | methanol | 1 ml | CO | CH4O
product | 2-[(piperidin-4-ylmethyl)-amino]-1H-benzimidazole-4-carboxylic acid (2-methoxy-ethyl)-amide | COCCNC(=O)C1=CC=CC=2NC(=NC21)NCC2CCNCC2 | C17H25N5O2
